US08937071B2
To a mixture of 4-ethoxypyridin-2-ol (2.5 g, 17.97 mmol) in DMF (30 mL) was added NIS (4.04 g, 17.97 mmol). The mixture was stirred at 80° C. for 16 h. The mixture was concentrated and purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield a yellow solid of 4-ethoxy-5-iodopyridin-2-ol (1.2 g, 4.30 mmol, 23.9% yield): 1H NMR (400 MHz, CD3OD) δ 7.70 (s, 1H), 5.92 (s, 1H), 4.15-4.10 (m, 2H), 1.48 (t, J=6.8 Hz, 3H); ES-LCMS m/z 265.8 (M+H).

reactant | 4-ethoxypyridin-2-ol | 17.97 mmol, 2.5 g | C(C)OC1=CC(=NC=C1)O | C7H9NO2
reactant | NIS | 17.97 mmol, 4.04 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-ethoxy-5-iodopyridin-2-ol | 4.30 mmol, 1.2 g, 23.9% yield | C(C)OC1=CC(=NC=C1I)O | C7H8INO2
